US04959361
2-[3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-2-propynyl]-3 4-dihydro1(2H)-isoquinolinone
The title compound was synthesized by coupling 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with 3,4-dihydro-2.(2-propynyl)1(2H)-isoquinolinone [ref. W. Schneider et al. Arch. pharm., 291, 560 (1958)]under the conditions described in EXAMPLE 37. The product was isolated by chromatography over the 50-fold amount of solica gel using tetrahydrofuran/hexane 4:1 for elution. The clean fractions were combined and evaporated and the residue was crystallized from ethyl acetate to give colorless crystals of 2-{3-[4-(2-chlorophenyl) 9 methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2.yl]-2-propynyl}-3,4-dihydro-1(2H)-isoquinolinone with m.p. 164°-166°.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | (2-propynyl)1(2H)-isoquinolinone | C(C#C)N1C(C2=CC=CC=C2C=C1)=O | C12H9NO
solvent | tetrahydrofuran hexane | O1CCCC1.CCCCCC
product | 2-[3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-2-propynyl]-3 4-dihydro1(2H)-isoquinolinone | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCN3C(C1=CC=CC=C1CC3)=O)C(=NN2)C | C27H20ClN5OS
